US06451827B2
2-Hydroxy-4-{2-[5′-(8-phenyl-octylcarbamoyl)-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-2′-yloxy]-ethoxy}-benzoic Acid
To a solution of 2-hydroxy-4-{2-[5′-(8-phenyl-octylcarbamoyl)-3,3″-bis-trifluoromethyl[1,1′;3′,1″]terphenyl-2′-yloxy]-ethoxy}-benzoic acid methyl ester (0.980 g, 1.21 mmol, 1 eq) in EtOH (20 mL) was added 50% NaOH (10 mL) and the reaction was heated at reflux overnight. It was cooled to rt, diluted with H2O, and acidified with 2M HCl to pH 1. It was extracted with EtOAc, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (30% EtOAc:hexane) to afford the title compound (0.92 g, 96%) as a white foam. 1H NMR (DMSO-d6) δ 13.60 (bs, 1H); 11.40 (bs, 1H); 8.59 (bt, 1H); 8.00-7.92 (m, 6H); 7.74-7.65 (m, 4H); 7.56 (d, 1H); 7.25-7.10 (m, 5H); 6.08-6.00 (m, 2H); 3.66 (bd, 2H); 3.52 (bd, 2H); 3.25 (dd, 2H); 2.52 (t, 2H); 1.53 (m, 4H); 1.27 (m, 8H); IR (KBr) 3350, 2950, 2850, 1670, 1620, 1550, 1500, 1460, 1320, 1230, 1220, 1160, 1120, 1095, cm−1; mass spectrum [(−)APCI], m/z 792 (M−H)−; Anal. Calcd. for C44H41F6NO6: C, 66.58; H, 5.21; N, 1.76, Found: C, 64.86; H, 5.22; N, 1.68.

reactant | 2-hydroxy-4-{2-[5′-(8-phenyl-octylcarbamoyl)-3,3″-bis-trifluoromethyl[1,1′;3′,1″]terphenyl-2′-yloxy]-ethoxy}-benzoic acid methyl ester | 1.21 mmol, 0.980 g, 1 eq | COC(C1=C(C=C(C=C1)OCCOC1=C(C=C(C=C1C1=CC(=CC=C1)C(F)(F)F)C(NCCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C(F)(F)F)O)=O | C45H43F6NO6
reactant | NaOH | 10 mL | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | H2O | O | H2O
product | 2-Hydroxy-4-{2-[5′-(8-phenyl-octylcarbamoyl)-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-2′-yloxy]-ethoxy}-benzoic Acid | 0.92 g, 96% | OC1=C(C(=O)O)C=CC(=C1)OCCOC1=C(C=C(C=C1C1=CC(=CC=C1)C(F)(F)F)C(NCCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C(F)(F)F | C44H41F6NO6
